Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Biaxin / Zidovudine
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMHx of medically managed 
3v CAD, HIV, mild dCHF on ECHO, CKD, and cirrhosis with h/o 
variceal bleed who presents from clinic with chest pain. He was 
seen today in clinic with chest pain concerning for unstable 
angina over the last 3 days. He was using his SL NTG but only 
with transient relief. At clinic his EKG showed mild ST 
depression in V5, V6 and reciprocal changes III, avF. Ekg's sent 
with pt.  

Patient reports decreasing exercise tolerance secondary to chest 
pain and dyspnea with exertion since ___. He usually walks 
6 miles without issue, has had progressive symptoms to the point 
he has chest pain on walking ~1 block that improves with rest 
and SL NTG. Today had pain at rest lasting several hours. Pain 
is currently resolved. Also reports 8 lb weight gain over few 
several weeks, and increased bilateral ___. Mild productive 
cough. Mild nausea yesterday, resolved today.  

Of note, patient was recently admitted to ___ 
last week for GI bleed. Patient reports that they did a lot of 
tests and found gastritis that they though lead to melena. He 
reports receiving blood products there. He does not have 
records. He was started on new medications, but he does not 
remember them. Denies current GIB, melena, n/v, bleeding.  

In the ED initial vitals were: 99.0, 74, 115/57, 16, 100% RA   
EKG: NSR, HR 69, NA, NI, 1mm STD V4-V6, qwave III (old), no STE  
 
CXR with no acute cardiopulmonary abnormality.  
Labs/studies notable for: pancytopenia, he had pitting edema 
peripherally with clear lungs.    Patient was given: Aspirin 243 
mg PO ONCE chewed  
Vitals on transfer: HR70 105/60 18 98% RA  
 
On the floor, patient reports that he has been chest pain free 
since presentation. No current dyspnea. No palpitations, 
orthopnea or PND.  
 
Past Medical History:
1. Type 2 diabetes mellitus ___ - A1c 8.3%).  
2. Multivessel CAD, cardiac catheterization from ___ 
showed an LAD with severe diffuse disease with serial 60%-70% 
proximal, 90% mid, and diffuse distal 80%-90% occlusion, 
moderate diagonal free of significant disease. Left circumflex 
high OM1 of 80%, RCA large vessel with a 40% proximal and mid 
stenosis and total occlusion of the PDA, left to right 
collaterals from apical LAD.  
3. Mixed dyslipidemia ___ - TC 98, ___ 215, HDL 26, LDL 56).  
4. CKD, stage II.  
5. Hypertension.  
6. HIV (dx ___ - on HAART, last CD4 239. Also on Bactrim for 
PCP ___ despite no indication
7. Diffuse large B cell lymphoma dx ___ SBO and perforation 

s/p 6 cycles of RCHOP  
8. Hypothyroidism  
9. Cirrhosis, likely ___ NASH from HIV meds, c/b esophageal 
varices s/p banding ___: 3 cords grade II-III varices 
banded; ___: 2 cords grade II varices banded) 
10. CHF- moderate cardiomegaly, on furosemide, isosorbide 
mononitrate, asa, pravastatin 
 
Social History:
___
Family History:
Family history: Strong family history of premature coronary 
artery disease.  Dad died at ___, paternal grandfather at ___, and 
maternal grandfather at ___, all with MIs.  Mother had CABG and 
died at age ___. She was diabetic.
 
Physical Exam:
GENERAL: Thin appearing male in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP of 12 cm.  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
 LUNGS: No bibasilar crackles appreciated, CTAB  
 ABDOMEN: Soft, NT, mildly distended at baseline. No fluid 
shift.  
 EXTREMITIES: Resolved ___ edema. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
___ 05:04PM   WBC-2.9* RBC-2.44* HGB-8.4* HCT-24.9* 
MCV-102* MCH-34.4* MCHC-33.7 RDW-13.8 RDWSD-50.9*
___ 05:04PM   NEUTS-42.0 ___ MONOS-8.7 EOS-2.4 
BASOS-1.0 IM ___ AbsNeut-1.20*# AbsLymp-1.31 AbsMono-0.25 
AbsEos-0.07 AbsBaso-0.03

___ 05:04PM   ___ PTT-25.0 ___
___ 05:04PM   proBNP-102
___ 05:04PM   cTropnT-<0.01
___ 05:04PM   GLUCOSE-166* UREA N-14 CREAT-1.2 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-102 TOTAL CO2-25 ANION GAP-16
___ 06:04PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 01:37AM BLOOD CK-MB-1 cTropnT-<0.01

___ CXR 

No acute cardiopulmonary abnormality.

___ TTE 
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild regional left ventricular systolic 
dysfunction with mild basal inferior hypokinesis. No masses or 
thrombi are seen in the left ventricle. Doppler parameters are 
most consistent with normal left ventricular diastolic function. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion.
Compared with the prior study (images reviewed) of ___, no 
change. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo male with history of dCHF, 3V CAD being 
managed medically, cirrhosis with recent admission for variceal 
bleed (___ last week) presents with crescendo chest pain with 
negative biomarkers and increasing weight, volume overload, and 
DOE.  

# Chest pain: Worsening chest pain with exertion over the last 3 
days. Negative torponinx2 that resolved with diuresis. CP most 
likely from increased stretch/stress in the setting of CAD w/ 
fixed defects during an episode of diastolic heart failure 
exacerbation. There was concern for unstable angina but given 
recent bleed he would be at high risk for bleed if he was 
heparinized or sent to cath lab for stenting.
 - Continue home anti-anginals, aspirin/statin  
 
# Acute on chronic ___: Patient with grade 1 diastolic 
dysfunction on ECHO and mild systolic dysfunction. Presented 
with ___ edema and crackles on exam with ___ weight gain 
(admission weight 166.6lb). Admitted last week to ___ for GIB 
and was volume resuscitated, which contributed to acute 
exacerbation. Auto-diuresed w/o medication with decrease in 
weight to close to baseline 161.6lb. TTE on ___ was 
unchanged from prior. 
- Weight at discharge 73.1kg (161.6lb), unclear dry weight 
- Increased nadolol to 40mg daily (from 20mg daily)
 
 # Hx of recent GIB: Presented to ___ with melena and had 
workup there with imaging. Was fluid resuscitated but unclear if 
he received blood products. No evidence of bleeding during this 
stay.

Chronic:  
 # HIV: continue HAART & Bactrim prophylaxis 
 # T2DM: cont home detemir 
# Cirrhosis: Likely ___ NASH from HIV meds, c/b esophageal 
varices s/p banding (most recently in ___. Was continued on 
rifaximin started at ___.    
# Pancytopenia Likely multifactorial in the setting of HIV, 
cirrhosis, ongoing Bactrim use and chronic disease. 
 # HTN: amLODIPine 7.5 mg PO DAILY  
 # Hypothyroidism: Levothyroxine Sodium 150 mcg PO DAILY  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 7.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Darunavir 600 mg PO BID 
4. Etravirine 200 mg PO BID 
5. Furosemide 20 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
7. LaMIVudine 300 mg PO DAILY 
8. Levothyroxine Sodium 150 mcg PO DAILY 
9. LOPERamide 2 mg PO QID:PRN diarrhea 
10. Nadolol 20 mg PO DAILY 
11. Pantoprazole 40 mg PO Q24H 
12. Pravastatin 80 mg PO QPM 
13. Raltegravir 400 mg PO BID 
14. RiTONAvir 100 mg PO BID 
15. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
16. AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal 
Unknown 
17. Ferrous Sulfate 325 mg PO DAILY 
18. ciclopirox 8 % topical DAILY 
19. ___ Oil (Omega 3) 1200 mg PO BID 
20. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
21. Gabapentin 300 mg PO QHS 
22. GlyBURIDE 10 mg PO BID 
23. Ketoconazole 2%  1 Appl TP BID 
24. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
25. sitaGLIPtin 50 mg oral DAILY 
26. Detemir 12 Units Breakfast
Detemir 34 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
27. Rifaximin 550 mg PO BID 

 
Discharge Medications:
1.  Detemir 12 Units Breakfast
Detemir 34 Units Bedtime 
2.  Nadolol 40 mg PO DAILY 
RX *nadolol 40 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
3.  amLODIPine 7.5 mg PO DAILY  
4.  AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal 
Unknown  
5.  Aspirin 81 mg PO DAILY  
6.  ciclopirox 8 % topical DAILY  
7.  Darunavir 600 mg PO BID  
8.  Etravirine 200 mg PO BID  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  ___ Oil (Omega 3) 1200 mg PO BID  
11.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
12.  Furosemide 20 mg PO DAILY  
13.  Gabapentin 300 mg PO QHS  
14.  GlyBURIDE 10 mg PO BID  
15.  Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY  
16.  Ketoconazole 2%  1 Appl TP BID  
17.  LaMIVudine 300 mg PO DAILY  
18.  Levothyroxine Sodium 150 mcg PO DAILY  
19.  LOPERamide 2 mg PO QID:PRN diarrhea  
20.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
21.  Pantoprazole 40 mg PO Q24H  
22.  Pravastatin 80 mg PO QPM  
23.  Raltegravir 400 mg PO BID  
24.  Rifaximin 550 mg PO BID  
25.  RiTONAvir 100 mg PO BID  
26.  sitaGLIPtin 50 mg oral DAILY  
27.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Acute on Chronic Heart Failure
2) Chest Pain due to heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You came in with chest pain. We found you were not having a 
heart attack or angina. It seems that your heart failure was 
exacerbated by the fluids you recently received during your GI 
bleed. We monitored you closely and our body removed the excess 
fluid by itself. A repeateEchocardiogram was unchanged from 
prior times which is good news. We optimized your medications by 
increasing your nadolol dosage. Your symptoms resolved so you 
were discharged home. Your weight at discharge was  161.6lb. 
Please follow up with your outpatient doctors. 
___ was a pleasure taking care of you.

Best,
Your ___ Care team
 
Followup Instructions:
___